US05756505
Synthesis of 1-isobutyrylpiperazine
Tert-butyl piperazinecarboxylate (2.93 g) and triethylamine (4.39 ml) were dissolved in dichloromethane (60 ml) and then, while being cooled with ice, isobutyryl chloride (1.84 ml) was added thereto. After being stirred for 30 minutes, the reaction mixture was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated under a vacuum. To 1.79 g of part of the resulting residue, trifluoroacetic acid (9 ml) was added and the mixture was stirred for 30 minutes at room temperature. Then, the reaction mixture was concentrated under a vacuum. The residue was dissolved in methanol (20 ml) and then 2N hydrochroric acid methanol solution (10 ml) was added thereto. After being stirred for 10 minutes, the reaction mixture was concentrated under a vacuum. The residue, with 10% aqueous sodium hydroxide solution added thereto, was extracted with chloroform. The extract was washed with water and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum to yield 0.85 g of the aimed compound.

reactant | Tert-butyl piperazinecarboxylate | 2.93 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 4.39 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 1.84 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 1-isobutyrylpiperazine | 0.85 g | C(C(C)C)(=O)N1CCNCC1 | C8H16N2O
